US08076332B2
N-(2-t-Butoxycarbonylaminophenyl)-4-hydroxymethylbenzamide (Reference Compound No. 3-1)
HATU (17 g, 45 mmol) was added to a solution of 2-aminophenylcarbamic acid t-butyl ester (Reference Compound No. 1-1, 8.3 g, 40 mmol), 4-hydroxymethylbenzoic acid (6.2 g, 41 mmol) and N,N-diisopropylethylamine (21 mL, 120 mmol) in anhydrous DMF (200 mL), and then the mixture was stirred at room temperature for 16 hours. Water (500 mL) was added thereto, the whole was extracted with ethyl acetate (500 mL) twice, and then the organic layer was washed with brine (500 mL) twice. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 1.7 g of the title reference compound as a pale yellow solid. (Yield 42%)

reactant | HATU | 45 mmol, 17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminophenylcarbamic acid t-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
reactant | 4-hydroxymethylbenzoic acid | 41 mmol, 6.2 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | N,N-diisopropylethylamine | 120 mmol, 21 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | Water | 500 mL | O | H2O
product | N-(2-t-Butoxycarbonylaminophenyl)-4-hydroxymethylbenzamide | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CO)=O | C19H22N2O4
